US08258144B2
N-(4-(5-cyano-4-(cyclopropylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)-N-methylacetamide
A mixture of 2-chloro-4-(cyclopropylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile (165 mg, 0.425 mmol), N-(4-aminophenyl)-N-methylacetamide (107 mg, 0.652 mmol) and trimethylsilyl chloride (0.200 mL, 1.58 mmol) in nBuOH (4 mL) was stirred at 135° C. for 20 h. It was concentrated in vacuo. The residue was purified by HPLC to give the titled compound (50 mg). MS 362.3 (M+H); UV 202.8, 254.0, 280.4 nm.

reactant | 2-chloro-4-(cyclopropylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile | 0.425 mmol, 165 mg | ClC=1N=C(C2=C(N1)N(C=C2C#N)S(=O)(=O)C2=CC=C(C)C=C2)NC2CC2 | C17H14ClN5O2S
reactant | N-(4-aminophenyl)-N-methylacetamide | 0.652 mmol, 107 mg | NC1=CC=C(C=C1)N(C(C)=O)C | C9H12N2O
reactant | trimethylsilyl chloride | 1.58 mmol, 0.200 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | nBuOH | 4 mL | C(CCC)O | C4H10O
product | N-(4-(5-cyano-4-(cyclopropylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)-N-methylacetamide | 50 mg | C(#N)C1=CNC=2N=C(N=C(C21)NC2CC2)NC2=CC=C(C=C2)N(C(C)=O)C | C19H19N7O
